US07947680B2
Step 6: Pyridine-2-carboxylic acid (3-amino-adamantan-1-yl)-amide
To a round bottom flask was added 3-[(pyridine-2-carbonyl)-amino]-adamantane-1-carboxylic acid (10.0 g, 33.3 mmol) and toluene (100 mL). To the suspension was added triethylamine (5.6 mL, 40 mmol) and the mixture was stirred for a few minutes until most of the solids were dissolved. To the mixture was then added diphenylphosphonic azide (7.9 mL, 37 mmol) and the reaction was stirred at room temperature for 1 hour. The reaction mixture was transferred to an addition funnel and added dropwise to a 3-neck round bottom flask equipped with a reflux condenser containing toluene (70 mL) heated at 90° C. After the addition, the reaction was stirred at 90° C. for two more hours, then allowed to cool down to room temperature. The reaction mixture was then slowly added to a flask containing 6.0 N aqueous hydrochloric acid (55 mL, 330 mmol) and stirred vigorously for 1 hour. The biphasic mixture was transferred to a separatory funnel and the toluene layer was discarded. The aqueous acidic layer was then slowly treated with solid sodium carbonate until a pH of 10 was obtained. The aqueous layer was transferred to a 500-mL separatory funnel and extracted with methylene chloride (3×100 mL). The combined organic layers were then washed with brine, dried over sodium sulfate, filtered and concentrated under reduced pressure to afford 8.38 g (93%) of the title compound, pyridine-2-carboxylic acid (3-amino-adamantan-1-yl)-amide, as a gummy foam. 1H NMR (300 MHz, CDCl3) δ 8.55-8.50 (m, 1H), 8.16 (d, J=7.9 Hz, 1H), 7.94 (br s, 1H), 7.84 (td, J=7.7, 1.7 Hz, 1H), 7.40 (ddd, J=7.6, 4.7, 1.3 Hz, 1H), 2.31-2.21 (m, 2H), 2.13-1.97 (m, 6H), 1.71-1.51 (m, 6H). ESI-MS m/z: 272 (M+H)+.

reactant | 3-[(pyridine-2-carbonyl)-amino]-adamantane-1-carboxylic acid | 33.3 mmol, 10.0 g | N1=C(C=CC=C1)C(=O)NC12CC3(CC(CC(C1)C3)C2)C(=O)O | C17H20N2O3
reactant | triethylamine | 40 mmol, 5.6 mL | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphonic azide | 37 mmol, 7.9 mL | C1=CC=C(C=C1)OP(=O)(N=[N+]=[N-])OC2=CC=CC=C2 | C12H10N3O3P
reactant | hydrochloric acid | 330 mmol, 6.0 N, 55 mL | Cl | ClH
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 70 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | Pyridine-2-carboxylic acid (3-amino-adamantan-1-yl)-amide | 8.38 g, 93% | NC12CC3(CC(CC(C1)C3)C2)NC(=O)C2=NC=CC=C2 | C16H21N3O
